US08580824B2
A solution of 2-cyclopentyl-6-methyl-isonicotinic acid ethyl ester (3.96 g, 17.0 mmol) in 25% aq. HCl (50 mL) is stirred at 75° C. for 16 h. The solvent is removed in vacuo and the remaining residue is dried under HV to give 2-cyclopentyl-6-methyl-isonicotinic acid hydrochloride (4.12 mg) as a white solid; LC-MS: tR=0.54 min, [M+1]+=206.08.

reactant | 2-cyclopentyl-6-methyl-isonicotinic acid ethyl ester | 17.0 mmol, 3.96 g | C(C)OC(C1=CC(=NC(=C1)C)C1CCCC1)=O | C14H19NO2
reactant | HCl | 50 mL | Cl | ClH
product | 2-cyclopentyl-6-methyl-isonicotinic acid hydrochloride | 4.12 mg | Cl.C1(CCCC1)C=1C=C(C(=O)O)C=C(N1)C | InChI=1S/C12H15NO2.ClH/c1-8-6-10(12(14)15)7-11(13-8)9-4-2-3-5-9;/h6-7,9H,2-5H2,1H3,(H,14,15);1H
